US07700598B2
21e (R)-2-(3,4-dichloro-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
450 mg (55% in mineral oil, 10.3 mmol) NaH were added batchwise to a solution of 2.6 g (9.9 mmol) ethyl(R)-3-(3,4-dichloro-phenyl)-2-hydroxy-propionate in 50 mL THF cooled to 0° C. and stirred for a further 30 min at this temperature. Subsequently 3.7 g (11.9 mmol) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride were added batchwise while being cooled and the reaction mixture was stirred overnight at RT. The reaction solution was evaporated down i.vac., the residue combined with DCM, the organic phase was separated off, washed with 10% citric acid solution and 15% K2CO3 solution and dried over Na2SO4. After the desiccant and solvent had been eliminated the product was obtained which was reacted without any further purification.

reactant | NaH | 10.3 mmol, 450 mg | [H-].[Na+]
reactant | ethyl(R)-3-(3,4-dichloro-phenyl)-2-hydroxy-propionate | 9.9 mmol, 2.6 g | ClC=1C=C(C=CC1Cl)C[C@H](C(=O)OCC)O | C11H12Cl2O3
reactant | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride | 11.9 mmol, 3.7 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)Cl)C=CC=C2 | C15H18ClN3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-2-(3,4-dichloro-phenyl)-1-ethoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC)C=CC=C2 | C26H29Cl2N3O5
